US05935952
To a suspension of 210 mg of ethyl 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-trifluoroacetyl-spiro[isoindolin-1,1'-cyclopropan]-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate in 4.2 ml of ethanol were added 2.1 ml of 1N aqueous sodium hydroxide solution and 4.2 ml of dioxane, after which the resulting mixture was heated with stirring at 40° C. for three hours. The reaction mixture was cooled to room temperature, and thereafter, insolubles were removed by filtration, after which a carbon dioxide gas was blown in the filtrate obtained. The crystals precipitated were collected by filtration, to obtain 140 mg of pale yellow, crystalline 1-cyclopropyl-6-fluoro-8-methoxy-7-[spiro[isoindolin-1,1'-cyclopropan]-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | ethyl 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-trifluoroacetyl-spiro[isoindolin-1,1'-cyclopropan]-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 210 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C=1C=C2CN(C3(CC3)C2=CC1)C(C(F)(F)F)=O)F)=O)C(=O)OCC | C28H24F4N2O5
reactant | sodium hydroxide | 1N, 2.1 ml | [OH-].[Na+]
reactant | dioxane | 4.2 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 4.2 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-8-methoxy-7-[spiro[isoindolin-1,1'-cyclopropan]-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C=1C=C2CNC3(CC3)C2=CC1)F)=O)C(=O)O | C24H21FN2O4
